US08957074B2
Preparation of ((R)-1-{3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-3,8-diaza-bicyclo[3.2.1]octane-8-carbonyl}-3-methylsulfanyl-propyl)-carbamic acid tert-butyl ester
Following general amide formation method 1, 7-Cyclopentyl-2-[5-(3,8-diaza-bicyclo[3.2.1]octane-3-carbonyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide (100 mg, 0.205 mmol, 1.0 eq) was combined with BOC-D-Methionine (51 mg, 0.205 mmol, 1.0 eq) which gave ((R)-1-{3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-3,8-diaza-bicyclo[3.2.1]octane-8-carbonyl}-3-methylsulfanyl-propylycarbamic acid tert-butyl ester (105 mg) in 68% yield. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.39-1.56 (m, 14H) 1.63 (br. s., 2H) 1.68-1.82 (m, 3H) 1.82-1.99 (m, 4H) 1.99-2.18 (m, 10H) 2.48-2.68 (m, 5H) 3.18 (s, 7H) 3.73 (dd, J=10.36, 6.82 Hz, 1H) 4.51 (br. s., 1H) 4.69 (br. s., 3H) 4.77-4.89 (m, 2H) 5.28 (t, J=10.11 Hz, 1H) 6.51 (s, 1H) 7.80 (d, J=6.57 Hz, 1H) 8.36 (br. s., 1H) 8.42 (d, J=2.02 Hz, 1H) 8.59 (br. s., 1H) 8.80 (s, 1H). HRMS m/z, (M+H)+: 720.3682.

reactant | 7-Cyclopentyl-2-[5-(3,8-diaza-bicyclo[3.2.1]octane-3-carbonyl)-pyridin-2-ylamino]-7H-pyrrolo[2,3-d]pyrimidine-6-carboxylic acid dimethylamide | 0.205 mmol, 100 mg, 1.0 eq | CN(C(=O)C1=CC2=C(N=C(N=C2)NC2=NC=C(C=C2)C(=O)N2CC3CCC(C2)N3)N1C1CCCC1)C | C26H32N8O2
reactant | BOC-D-Methionine | 0.205 mmol, 51 mg, 1.0 eq | C(=O)(OC(C)(C)C)N[C@H](CCSC)C(=O)O | C10H19NO4S
product | ((R)-1-{3-[6-(7-Cyclopentyl-6-dimethylcarbamoyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)-pyridine-3-carbonyl]-3,8-diaza-bicyclo[3.2.1]octane-8-carbonyl}-3-methylsulfanyl-propyl)-carbamic acid tert-butyl ester | 68% yield | C(C)(C)(C)OC(N[C@H](CCSC)C(=O)N1C2CN(CC1CC2)C(=O)C=2C=NC(=CC2)NC=2N=CC1=C(N2)N(C(=C1)C(N(C)C)=O)C1CCCC1)=O | C36H49N9O5S
